US05532248
To a stirred mixture of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (150 mg, 0.189 mmol, 1 eq) and Cu(OAc)2 (6.1 mg, 0.033 mmol, 0.17 eq) in CH2Cl2 (2.5 ml) in a round bottom flask equipped with a magnetic stir-bar was added tri(4-chlorophenyl)bismuth diacetate [prepared immediately prior to use by addition of acetic acid (0.075 ml, 1.3 mmol, 6.9 eq) to a suspension of tri(4-chlorophenyl)bismuth carbonate (200 mg, 0.331 mmol, 1.75 eq) in CH2Cl2 (2.5 ml)]. The reaction flask was then fitted with a reflux condenser and the mixture warmed to 40° C. After 20 hours the reaction mixture was cooled, diluted with saturated aqueous NaHCO3 (10 mL) and extracted 4 times with CH2Cl2. The organic extracts were dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The product was separated and purified two times by preparative TLC on silica gel (eluted with 2:1 hexanes/acetone) to give 40 mg 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-chlorophenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone. (1H NMR, 13C NMR, and mass spectral analysis were consistent with the desired structure).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.189 mmol, 150 mg, 1 eq | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | tri(4-chlorophenyl)bismuth diacetate | C(C)(=O)O.C(C)(=O)O.ClC1=CC=C(C=C1)[Bi](C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl
reactant | acetic acid | 1.3 mmol, 0.075 ml, 6.9 eq | C(C)(=O)O | C2H4O2
reactant | tri(4-chlorophenyl)bismuth carbonate | 0.331 mmol, 200 mg, 1.75 eq | C(O)(O)=O.ClC1=CC=C(C=C1)[Bi](C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
catalyst | Cu(OAc)2 | 0.033 mmol, 6.1 mg, 0.17 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-chlorophenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 40 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=C(C=C2)Cl)OC)C)C)O)=O | C49H72ClNO12
